US04552894
Sodium hydride (1.4 g; 60% in oil) was added to 20 ml of dry acetonitrile, and a solution of 4.4 g of 2-phenyl-2-methylpropyl alcohol in 10 ml of acetonitrile was added dropwise at 50° C. The mixture was heated under reflux for 30 minutes, and a solution of 5.4 g of 4-(2-fluoroethoxy)benzyl chloride in 10 ml of acetonitrile was added dropwise over 10 minutes. The mixture was further heated under reflux for 1 hour. The reaction mixture was cooled to room temperature, poured into water, and extracted with toluene. The toluene layer was washed with water and dried over anhydrous sodium sulfate. Toluene was evaporated under reduced pressure. The resulting crude ether was purified by silica gel (180 g) column chromatography (developing solvent: a 2:1 mixture of toluene and n-hexane) to give 6.5 g of 4-(2-fluoroethoxy)benzyl 2-phenyl-2-methylpropyl ether.

reactant | Sodium hydride | 1.4 g | [H-].[Na+]
reactant | 2-phenyl-2-methylpropyl alcohol | 4.4 g | C1(=CC=CC=C1)C(CO)(C)C | C10H14O
reactant | 4-(2-fluoroethoxy)benzyl chloride | 5.4 g | FCCOC1=CC=C(CCl)C=C1 | C9H10ClFO
reactant | water | O | H2O
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 4-(2-fluoroethoxy)benzyl 2-phenyl-2-methylpropyl ether | 6.5 g | C1(=CC=CC=C1)C(COCC1=CC=C(C=C1)OCCF)(C)C | C19H23FO2
